US08440689B2
C. tert-Butyl (1S,2R)-2-(2-(2,4-dimethoxybenzyl)-7-fluoro-1,1-dimethyl-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate
In a sealed tube, a mixture of tert-butyl (1S,2R)-2-(4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1,1-dimethyl-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate (30 mg, 0.052 mmol), Na2CO3 aq (2M, 0.065 mL, 0.130 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (12.98 mg, 0.062 mmol), bis(triphenylphosphine)palladium chloride (3.65 mg, 5.20 μmol), and DMF (1 mL) was heated at 160° C. for 0.5 h in a microwave oven. The reaction mixture was then heated at 160° C. for an additional 4 h in a microwave oven and was subsequently purified by preparative HPLC to give the title compound as a light yellow solid (5 mg, 18%). [M+H] calc'd for C28H35FN6O3, 524. found 524.

reactant | tert-butyl (1S,2R)-2-(4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1,1-dimethyl-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | 0.052 mmol, 30 mg | ClC1=NC(=C(C2=C1C(N(C2(C)C)CC2=C(C=C(C=C2)OC)OC)=O)F)N[C@H]2[C@H](CCCC2)NC(OC(C)(C)C)=O | C29H38ClFN4O5
reactant | Na2CO3 | 0.130 mmol, 2M, 0.065 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.062 mmol, 12.98 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
catalyst | bis(triphenylphosphine)palladium chloride | 5.20 μmol, 3.65 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | tert-Butyl (1S,2R)-2-(2-(2,4-dimethoxybenzyl)-7-fluoro-1,1-dimethyl-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | 5 mg, 18% | COC1=C(CN2C(C=3C(=NC(=C(C3C2(C)C)F)N[C@H]2[C@H](CCCC2)NC(OC(C)(C)C)=O)C=2C=NN(C2)C)=O)C=CC(=C1)OC | C33H43FN6O5
